US08859183B2
In a four-necked flask with a volume of 500 mL, which was equipped with a thermometer, a stirrer, a dropping funnel, and a nitrogen introducing tube, 9.7 g (70 mmol) of potassium carbonate, 0.7 g (4 mmol) of potassium iodide, 100 mL of dimethylformamide, 25.8 g (300 mmol) of methacrylic acid, and 18.8 g (100 mmol) of 6-chloroacetyl-6-azabicyclo[3.2.0]heptan-7-one obtained in Synthesis Example 3 were charged, and the mixture was stirred at an internal temperature of 25° C. for 5 hours. To the reaction mixture, 100 mL of ethyl acetate and 50 mL of water were added, and a liquid separation operation was then carried out. The obtained organic layer was concentrated under reduced pressure and then purified by means of silica gel column chromatography, thereby obtaining 17.1 g (72 mmol) of 6-methacryloyloxyacetyl-6-azabicyclo[3.2.0]heptan-7-one having the following properties.

reactant | potassium carbonate | 70 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | methacrylic acid | 300 mmol, 25.8 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 6-chloroacetyl-6-azabicyclo[3.2.0]heptan-7-one | 100 mmol, 18.8 g | ClCC(=O)N1C2CCCC2C1=O | C8H10ClNO2
catalyst | potassium iodide | 4 mmol, 0.7 g | [I-].[K+]
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-methacryloyloxyacetyl-6-azabicyclo[3.2.0]heptan-7-one | 72 mmol, 17.1 g | C(C(=C)C)(=O)OCC(=O)N1C2CCCC2C1=O | C12H15NO4
